US08222269B2
Step 1: 1-(3-Chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-(pyridin-2-ylmethyl)methanesulfonamide (Compound 8-1)
2-Aminomethylpyridine (55.9 ml, 546 mmol) was added to a solution of 1-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-methyl-N-phenylmethanesulfonamide (51.6 g, 121 mmol) in N-methyl-2-pyrrolidinone (1214 ml) at room temperature. The solution was then heated to 130-135° C. for 2 h in a pre-warmed oil bath. The solution was then cooled to room temperature and poured into aqueous sodium hydrogen carbonate (saturated, 3.0 L) and 500 mL ice-water and extracted with ethyl acetate (3×500 mL). The combined organics were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (EtOAc/Hexanes gradient) to afford the title compound as a yellow solid. 1H NMR (600 MHz, DMSO-D6) δ 8.99 (d, 1H); 8.47 (d, 1H); 8.46 (m, 1H); 8.16 (d, 1H); 7.81 (m, 3H); 7.76 (m, 1H); 7.49 (d, 1H); 7.38 (d, 1H); 7.32 (d, 1H); 7.25 (m, 1H); 4.63 (s, 2H); 4.22 (d, 2H). LRMS (APCI) calculated for C21H17ClN3O3S [M+H]+, 426.1. found 426.0.

reactant | 2-Aminomethylpyridine | 546 mmol, 55.9 ml | NCC1=NC=CC=C1 | C6H8N2
reactant | 1-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-methyl-N-phenylmethanesulfonamide | 121 mmol, 51.6 g | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)CS(=O)(=O)N(C1=CC=CC=C1)C | C22H17ClN2O3S
reactant | sodium hydrogen carbonate | 3.0 L | C(O)([O-])=O.[Na+]
solvent | N-methyl-2-pyrrolidinone | 1214 ml | CN1C(CCC1)=O | C5H9NO
product | 1-(3-Chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-(pyridin-2-ylmethyl)methanesulfonamide | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)CS(=O)(=O)NCC1=NC=CC=C1 | C21H16ClN3O3S
